US05760035
A mixture of 4-aminomethylpiperidine (5.0 g), 4'-chloroacetophenone (6.77 g), p-toluenesulphonic acid (catalytic amount) and toluene (50 ml) was boiled under reflux for 8 hours while removing the water formed using a Dean and Stark apparatus. The mixture was cooled to ambient temperature and 2-bromoethyl phenyl ether (8.84 g) and triethylamine (6.1 ml) were added. The mixture was boiled under reflux for 2 hours and evaporated to dryness. The residue was dissolved in ethanol (100 ml) and sodium borohydride (3.4 g) was added. The mixture was boiled under reflux for 18 hours and then evaporated to dryness. The residue was dissolved in 2M hydrochloric acid, washed with ethyl acetate, basified with 5M sodium hydroxide solution and the mixture extracted with dichloromethane to give an oil. The oil was dissolved in ether and treated with ethereal hydrogen chloride solution to give a solid which was collected by filtration and recrystallised from absolute ethanol to give 4-[1-(4-chlorophenyl)ethylaminomethyl-]-1-(2-phenoxyethyl)piperidine dihydrochloride, m.p. 220° C.

reactant | 4-aminomethylpiperidine | 5.0 g | NCC1CCNCC1 | C6H14N2
reactant | 4'-chloroacetophenone | 6.77 g | ClC1=CC=C(C=C1)C(C)=O | C8H7ClO
reactant | p-toluenesulphonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 2-bromoethyl phenyl ether | 8.84 g | C1(=CC=CC=C1)OCCBr | C8H9BrO
reactant | hydrogen chloride | Cl | ClH
solvent | ether | CCOCC | C4H10O
solvent | triethylamine | 6.1 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 4-[1-(4-chlorophenyl)ethylaminomethyl-]-1-(2-phenoxyethyl)piperidine dihydrochloride | Cl.Cl.ClC1=CC=C(C=C1)C(C)NCC1CCN(CC1)CCOC1=CC=CC=C1 | InChI=1S/C22H29ClN2O.2ClH/c1-18(20-7-9-21(23)10-8-20)24-17-19-11-13-25(14-12-19)15-16-26-22-5-3-2-4-6-22;;/h2-10,18-19,24H,11-17H2,1H3;2*1H
